US05686445
2,4,5,6-Tetrahydro-2-methyl-6-(4-nitrobenzoyl)pyrazolo[4,3-d][1]benzazepine
A solution of 0.150 g of 4-[(dimethylamino)methylene]-1,2,3,4-tetrahydro-1-(4-nitrobenzoyl)-5H-1-benzazepin-5-one and 44 μl of methylhydrazine in 5 ml of methyl alcohol is heated at reflux for 18 hours. A precipitate forms on standing. The volaties are evaporated to a residue which is purified by column chromatography on silica gel by elution with 5% ethyl acetate-methylene chloride. The product fractions are combined and the volatiles evaporated to a residue which is dissolved in chloroform-methanol, filtered through glass wool and the filtrate evaporated in vacuo to give 0.110 g of the desired product as pale yellow crystals.

reactant | 4-[(dimethylamino)methylene]-1,2,3,4-tetrahydro-1-(4-nitrobenzoyl)-5H-1-benzazepin-5-one | 0.150 g | CN(C)C=C1CCN(C2=C(C1=O)C=CC=C2)C(C2=CC=C(C=C2)[N+](=O)[O-])=O | C20H19N3O4
reactant | methylhydrazine | 44 μl | CNN | CH6N2
solvent | methyl alcohol | 5 ml | CO | CH4O
product | 2,4,5,6-Tetrahydro-2-methyl-6-(4-nitrobenzoyl)pyrazolo[4,3-d][1]benzazepine | 0.110 g | CN1N=C2C(CCN(C3=C2C=CC=C3)C(C3=CC=C(C=C3)[N+](=O)[O-])=O)=C1 | C19H16N4O3
